US07105507B2
(RS)-4-Hydroxy-2-oxa-8-azaspiro[4.5]decane Hydrochloride
Methanesulfonyl chloride (173 μL, 2.2 mmol) in dichloromethane (100 mL) was added dropwise to a solution of (RS)-1,1-dimethylethyl 4-hydroxymethyl-4-(1,2-dihydroxyethyl)-1-piperidinecarboxylate (Description 98, 615 mg, 2.2 mmol) and triethylamine (933 μL, 6.6 mmol) in dichloromethane (150 mL) and the mixture was stirred at room temperature for 16 hours. Water (100 mL) was added and the layers were separated. The aqueous fraction was extracted with dichloromethane (2×100 mL), the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (50:50) and the residue was suspended in diethyl ether (50 mL) and treated with methanolic hydrogen chloride (0.25M, 3 mL). The mixture was stirred at room temperature for 30 minutes, then the solvent was evaporated under reduced pressure to give the title compound as a solid (150 mg, 35%). m/z (ES+) 158 (M+1).

reactant | Methanesulfonyl chloride | 2.2 mmol, 173 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (RS)-1,1-dimethylethyl 4-hydroxymethyl-4-(1,2-dihydroxyethyl)-1-piperidinecarboxylate | 2.2 mmol, 615 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C(CO)O | C13H25NO5
reactant | triethylamine | 6.6 mmol, 933 μL | C(C)N(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (RS)-4-Hydroxy-2-oxa-8-azaspiro[4.5]decane Hydrochloride | 150 mg, 35% | Cl.OC1COCC12CCNCC2 | InChI=1S/C8H15NO2.ClH/c10-7-5-11-6-8(7)1-3-9-4-2-8;/h7,9-10H,1-6H2;1H
